US05719141
d) N-Benzyloxycarbonyl-3(R,S)-hydroxymethyl-1,2,3,4-tetrahydroquinoline
14.0 g of N-benzyloxycarbonyl-3(R,S)-carboxy-1,2,3,4-tetrahydroquinoline are stirred in 400 ml of tetrahydrofuran with 9.0 ml of 10M borane-dimethylsulfide complex at 25° C. for 16 h. The reaction mixture is diluted several times with methanol and evaporated. The crude product is recrystallized from ethyl acetate/hexane: mp 62°-4° C.; Rf (X)=0.50; FAB-MS: (M+H)+ =298; anal. calc. for C18H19NO3 : C 72.71%, H 6.44%, N 4.71%; found C 72.84%, H 6.35%, N 4.75%.

reactant | N-benzyloxycarbonyl-3(R,S)-carboxy-1,2,3,4-tetrahydroquinoline | 14.0 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC2=CC=CC=C12)C(=O)O | C18H17NO4
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | N-Benzyloxycarbonyl-3(R,S)-hydroxymethyl-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)OC(=O)N1CC(CC2=CC=CC=C12)CO | C18H19NO3
